US07943639B2
1-(4-Phenoxy-benzenesulfonyl)-4-piperazin-1-yl-1 H-pyrrolo(3,2-c)pyridine hydrochloride
(4-Phenoxy)benzene)sulfonyl chloride (34.7 mg) was added to tert-butyl 4-(1H-pyrrolo[3,2-c]pyridin-4-yl)piperazine-1-carboxylate the title compound (12.8 mg). LC/MS RT: 1.839 (System 10 till 40% MeCN over 1.5 min, ACE C8), Purity. 95%. MS: 436 (M+1) 1HNMR (CD3OD) δ ppm 3.50 (m, J=3.96 Hz, 4H) 4.09 (m, J=4.45 Hz, 4H) 7.05 (dd, J=8.16, 6.43 Hz, 2H) 7.26 (m, 2H) 7.44 (t, J=7.79 Hz, 2H) 7.90 (m, 3H) 8.01 (d, J=3.71 Hz, 2H) 8.07 (d, J=8.91 Hz, 2H).

reactant | (4-Phenoxy)benzene | O(C1=CC=CC=C1)C1=CC=CC=C1 | C12H10O
reactant | sulfonyl chloride | 34.7 mg | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | tert-butyl 4-(1H-pyrrolo[3,2-c]pyridin-4-yl)piperazine-1-carboxylate | N1C=CC=2C(=NC=CC21)N2CCN(CC2)C(=O)OC(C)(C)C | C16H22N4O2
product | 1-(4-Phenoxy-benzenesulfonyl)-4-piperazin-1-yl-1 H-pyrrolo(3,2-c)pyridine hydrochloride | 12.8 mg | Cl.O(C1=CC=CC=C1)C1=CC=C(C=C1)S(=O)(=O)N1C=CC=2C(=NC=CC21)N2CCNCC2 | InChI=1S/C23H22N4O3S.ClH/c28-31(29,20-8-6-19(7-9-20)30-18-4-2-1-3-5-18)27-15-11-21-22(27)10-12-25-23(21)26-16-13-24-14-17-26;/h1-12,15,24H,13-14,16-17H2;1H
